US05866594
Synthesis of methyl 4,7-dimethyl-1-(phenoxy-carbonyl)indole-2-carboxylate (compound 82)
A suspension of 1.2 g (50 mmol) of 60% sodium hydride in 100 ml of anhydrous DMF was prepared. A solution of 9.2 g (45.3 mmol) of methyl 4,7-dimethylindole-2-carboxylate in 150 ml of anhydrous DMF was added dropwise thereto over a period of 1 hour. The reaction mixture was stirred at room temperature for 1 hour and then cooled to 0° C. A solution of 6.25 ml (50.0 mmol) of phenyl chlorocarbonate in 20 ml of anhydrous DMF was added dropwise over a period of 30 minutes. The reaction mixture was stirred at room temperature for 15 hours and then added dropwise to 800 ml of ice water. The reaction mixture was extracted with 200 ml of ethyl acetate three times. The ethyl acetate layers were combined, washed with 300 ml of water twice and dried over anhydrous magnesium sulfate. After the ethyl acetate layers were distilled off under reduced pressure, the residue was recrystallized from acetone to provide 1.50 g of light yellow crystals. Yield: 10%

reactant | sodium hydride | 50 mmol, 1.2 g | [H-].[Na+]
reactant | methyl 4,7-dimethylindole-2-carboxylate | 45.3 mmol, 9.2 g | CC1=C2C=C(NC2=C(C=C1)C)C(=O)OC | C12H13NO2
reactant | phenyl chlorocarbonate | 50.0 mmol, 6.25 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | methyl 4,7-dimethyl-1-(phenoxy-carbonyl)indole-2-carboxylate | 1.50 g, Yield: 10% | CC1=C2C=C(N(C2=C(C=C1)C)C(=O)OC1=CC=CC=C1)C(=O)OC | C19H17NO4
